US04487927
A mixture of 7-[2-(2-aminothiazol-4-yl)-2-methoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (2.0 g) and sodium bicarbonate (1.8 g) in water (40 ml) was stirred at 40° to 45° C. for 7 hours. The reaction mixture was adjusted to pH 5.0 with acetic acid. This solution was subjected to column chromatography on macroporous nonionic adsorption resin "Diaion HP-20" (20 ml) and eluted with water. The eluate was acidified to pH 2.2 with 10% hydrochloric acid under ice-cooling, The precipitates were collected by filtration and dried to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (0.9 g), which was identified by comparing the physico-chemical data with those of the object compound in Example 90.

reactant | 7-[2-(2-aminothiazol-4-yl)-2-methoxycarbonylmethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 2.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)OC | C17H17N5O7S2
reactant | sodium bicarbonate | 1.8 g | C([O-])(O)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 0.9 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)O | C16H15N5O7S2
